US07960369B2
To a mixture of 3′-[4-(2-tert-butoxycarbonylethyl)phenoxymethyl]biphenyl-2-carboxylic acid (0.24 g, 0.56 mmol), dimethylaniline (2M tetrahydrofuran solution, 0.42 mL, 0.84 mmol), 1-hydroxybenzotriazole monohydrate (0.13 g, 0.84 mmol) and N,N-dimethylformamide (6.0 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.16 g, 0.84 mmol) at room temperature with stirring, and the mixture was stirred at the same temperature for 12 hrs. The reaction mixture was diluted with ethyl acetate, saturated aqueous sodium hydrogen carbonate, washed successively with 5% aqueous potassium hydrogensulfate solution and saturated brine, dried (anhydrous magnesium sulfate), and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=2/1-1/2) to give tert-butyl 3-(4-((2′-((dimethylamino)carbonyl)biphenyl-3-yl)methoxy)phenyl)propanoate as a colorless oil. This compound was dissolved in trifluoroacetic acid (2 mL), and the mixture was stirred at room temperature for 1 hr, and concentrated under reduced pressure. The residue was purified by preparative HPLC (gradient cycle A) to give the title compound (58 mg, yield 26%) as colorless crystals. MS (APCI−): 402 (M−H).

reactant | 3′-[4-(2-tert-butoxycarbonylethyl)phenoxymethyl]biphenyl-2-carboxylic acid | 0.56 mmol, 0.24 g | C(C)(C)(C)OC(=O)CCC1=CC=C(OCC=2C=C(C=CC2)C=2C(=CC=CC2)C(=O)O)C=C1 | C27H28O5
reactant | dimethylaniline | 0.84 mmol, 2M, 0.42 mL | CN(C1=CC=CC=C1)C | C8H11N
reactant | 1-hydroxybenzotriazole monohydrate | 0.84 mmol, 0.13 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.84 mmol, 0.16 g | Cl.C(C)N=C=NCCCN(C)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-(4-((2′-((dimethylamino)carbonyl)biphenyl-3-yl)methoxy)phenyl)propanoate | CN(C(=O)C1=C(C=CC=C1)C1=CC(=CC=C1)COC1=CC=C(C=C1)CCC(=O)OC(C)(C)C)C | C29H33NO4
